US08859544B2
Ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2-methyl-4-oxo-1-prop-2-en-1-yl-1,4-dihydroquinoline-3-carboxylate
0.49 ml (3.80 mmol) of ethyl acetoacetate diluted in 20 ml of anhydrous DMF is added, under an inert atmosphere at ambient temperature, to 0.66 g (1.52 mmol) of 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-1-prop-2-en-1-yl-2H-3,1-benzoxazine-2,4(1H)-dione in 30 ml of DMF. The reaction medium is stirred at ambient temperature overnight and then extracted with ethyl acetate. The organic phase obtained is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate, filtered, and then concentrated under reduced pressure.

reactant | ethyl acetoacetate | 3.80 mmol, 0.49 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-1-prop-2-en-1-yl-2H-3,1-benzoxazine-2,4(1H)-dione | 1.52 mmol, 0.66 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=CC2=C(C(OC(N2CC=C)=O)=O)C1)C | C22H18N2O5
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2-methyl-4-oxo-1-prop-2-en-1-yl-1,4-dihydroquinoline-3-carboxylate | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(C(=C(N(C2=CC1)CC=C)C)C(=O)OCC)=O)C | C27H26N2O5
